US07504411B2
To a solution of 3-(4-Bromo-phenyl)-6-tert-butoxycarbonylamino-hexanoic acid ethyl ester (2.43 g, 6.32 mmol) in ethyl acetate (3 mL) was added 4 N hydrogen chloride in ethyl acetate (6 mL) at room temperature. Removal of the solvent in vacuo after stirring for 30 min afforded 6-Amino-3-(4-bromo-phenyl)-hexanoic acid ethyl ester hydrochloride that was used in the next step without further purification.

reactant | 3-(4-Bromo-phenyl)-6-tert-butoxycarbonylamino-hexanoic acid ethyl ester | 6.32 mmol, 2.43 g | C(C)OC(CC(CCCNC(=O)OC(C)(C)C)C1=CC=C(C=C1)Br)=O | C19H28BrNO4
reactant | hydrogen chloride | 4 N | Cl | ClH
solvent | ethyl acetate | 3 mL | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 6 mL | C(C)(=O)OCC | C4H8O2
product | 6-Amino-3-(4-bromo-phenyl)-hexanoic acid ethyl ester hydrochloride | Cl.C(C)OC(CC(CCCN)C1=CC=C(C=C1)Br)=O | InChI=1S/C14H20BrNO2.ClH/c1-2-18-14(17)10-12(4-3-9-16)11-5-7-13(15)8-6-11;/h5-8,12H,2-4,9-10,16H2,1H3;1H
